US08377923B2
N,N′-carbonyldiimidazole (600 mg) was added to a solution of 3,5-difluoropyridine-2-carboxylic acid (500 mg) in THF (10 ml), followed by stirring at 50° C. for one hour. The reaction solution was returned to room temperature, a 40% methylamine/methanol solution (1 ml) was added thereto, followed by stirring at room temperature for one hour. The reaction solution was concentrated and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 0:100 linear gradient) to obtain 3,5-difluoro-N-methylpyridine-2-carboxamide (293 mg) as a colorless solid.

reactant | 3,5-difluoropyridine-2-carboxylic acid | 500 mg | FC=1C(=NC=C(C1)F)C(=O)O | C6H3F2NO2
reactant | methylamine methanol | 1 ml | CN.CO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3,5-difluoro-N-methylpyridine-2-carboxamide | 293 mg | FC=1C(=NC=C(C1)F)C(=O)NC | C7H6F2N2O
